US05006530
1-(4-Fluorophenyl)-4-methyl-2-phenyl-penten-3-one
0.9 ml of piperidine is added to 24.8 g (0.2 mol) of 4-fluorobenzaldehyde and 32.4 g (0.2 mol) of benzyl isopropyl ketone in 150 ml of toluene and the mixture is heated to reflux overnight. After cooling to room temperature, the mixture is extracted several times using water and the organic phase is dried over magnesium sulphate and concentrated in vacuo. The residue is subjected to incipient distillation up to a bath temperature of 150° C. at 0.1 mbar in a high vacuum and 43.8 g of crude product are obtained in the distillation residue.

reactant | piperidine | 0.9 ml | N1CCCCC1 | C5H11N
reactant | 4-fluorobenzaldehyde | 0.2 mol, 24.8 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | benzyl isopropyl ketone | 0.2 mol, 32.4 g | C(C)(C)C(=O)CC1=CC=CC=C1 | C11H14O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Fluorophenyl)-4-methyl-2-phenyl-penten-3-one | FC1=CC=C(C=C1)C=C(C(C(C)C)=O)C1=CC=CC=C1 | C18H17FO
